US04305945
Ethyl formate and 2-butanone are added to sodium hydride and cyanoacetamide is added to give 3-cyano-5,6-dimethyl-2-hydroxypyridine, which is reacted with phosphorus pentachloride and the product reduced with hydrogen and Raney nickel in the presence of semicarbazide, and formaldehyde is added to the mixture to give 2-chloro-5,6-dimethyl-3-pyridinecarboxaldehyde m.p. 69°-70°.

reactant | Ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 2-butanone | CC(CC)=O | C4H8O
product | 3-cyano-5,6-dimethyl-2-hydroxypyridine | C(#N)C=1C(=NC(=C(C1)C)C)O | C8H8N2O
